US07074819B2
2-(2,2,2-trifluoroethoxy)ethyl p-toluenesulfonate (14.0 g, 47 mmol) and potassium thioacetate (10.0 g, 88 mmol) were dissolved in acetone (100 ml) and the mixture was stirred at room temperature for 2 days. The mixture was poured into water and extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate. After concentration, silica gel column chromatography (n-hexane/ethyl acetate=10/1) gave 2-(2,2,2-Trifluoroethoxy)ethyl thioacetate (8.3 g, 87%)

reactant | 2-(2,2,2-trifluoroethoxy)ethyl p-toluenesulfonate | 47 mmol, 14.0 g | C1(=CC=C(C=C1)S(=O)(=O)OCCOCC(F)(F)F)C | C11H13F3O4S
reactant | potassium thioacetate | 88 mmol, 10.0 g | C(C)(=S)[O-].[K+]
reactant | water | O | H2O
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 2-(2,2,2-Trifluoroethoxy)ethyl thioacetate | 8.3 g, 87% | C(C)(=S)OCCOCC(F)(F)F | C6H9F3O2S
